US06034067
N-(tert-butyloxycarbonyl)-S-methylisothiourea (2 g) was dissolved in dichloromethane (20 ml). To the solution, a 4N sodium hydroxide solution (2 ml) was added with stirring. The reaction mixture was placed in an ice bath; N-(benzyloxy-carbonyloxy)-succinimid (2.62 g) in dichloromethane (20 ml) was added dropwise together with a 2N sodium hydroxide solution to keep the pH around 11. After addition was complete, the reaction mixture was stirred overnight at room temperature. The dichloromethane layer was separated, and the aqueous layer was washed twice with dichloromethane. The combined organic layers were washed with water and dried over sodium sulfate, filtered and evaporated in vacuo. The residue was purified by chromatography on silica (eluent: heptane/ethyl acetate=3/2 v/v %) to yield N-(benzyloxy-carbonyl)-N'-(tert-butyloxycarbonyl)-S-methylisothiourea (3.15 g).

reactant | N-(tert-butyloxycarbonyl)-S-methylisothiourea | 2 g | C(C)(C)(C)OC(=O)NC(SC)=N | C7H14N2O2S
reactant | sodium hydroxide | 4N, 2 ml | [OH-].[Na+]
reactant | N-(benzyloxy-carbonyloxy)-succinimid | 2.62 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(benzyloxy-carbonyl)-N'-(tert-butyloxycarbonyl)-S-methylisothiourea | 3.15 g | C(C1=CC=CC=C1)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C15H20N2O4S
